US20010027196A1
2-Amino-4-methylsulfanyl-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile
From 3,4,5-trimethoxybenzoylacetonitrile with sodium hydride, carbon disulphide and methyl iodide in DMSO. Then treatment with guanidine nitrate and triethylamine in DMF. EI-MS m/e (%): 332 (M+, 100), 317 ([M—CH3]+, 36).

reactant | 3,4,5-trimethoxybenzoylacetonitrile | COC=1C=C(C(=O)CC#N)C=C(C1OC)OC | C12H13NO4
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | guanidine nitrate | [N+](=O)(O)[O-].NC(=N)N
reactant | DMSO | CS(=O)C | C2H6OS
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | carbon disulphide | C(=S)=S | CS2
product | 2-Amino-4-methylsulfanyl-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)SC)C#N)C1=CC(=C(C(=C1)OC)OC)OC | C15H16N4O3S
